US07932272B2
2,6Diamino-N-(5-(4-fluoro-phenoxy)-furan-2-ylmethyl)-nicotinamide
2,6-Diamino-nicotinic acid described in Preparation Example A-15 (0.15 g, 0.98 mmol), triethylamine (0.41 mL, 2.94 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.65 g, 1.47 mmol) were dissolved in N,N-dimethylformamide (5 mL), and the solution was stirred at room temperature for 10 minutes. Then, a solution of C-(5-(4-fluoro-phenoxy)-furan-2-yl)methylamine described in Preparation Example 169 (304 mg, 1.47 mmol) in N,N-dimethylformamide (1 mL) was added thereto, followed by stirring at room temperature for 14 hours 50 minutes. After the reaction was completed, reaction solution was poured into brine, the solution was extracted with ethyl acetate, the fractionated organic layer was dried over anhydrous magnesium sulfate and then concentrated. The obtained residue was subjected to silica gel column chromatography, eluted with solvent (ethyl acetate), and the title compound (0.12 g, 0.35 mmol, 36%) was obtained.

reactant | 2,6-Diamino-nicotinic acid | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | triethylamine | 2.94 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.47 mmol, 0.65 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | C-(5-(4-fluoro-phenoxy)-furan-2-yl)methylamine | FC1=CC=C(OC2=CC=C(O2)CN)C=C1 | C11H10FNO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2,6Diamino-N-(5-(4-fluoro-phenoxy)-furan-2-ylmethyl)-nicotinamide | 0.35 mmol, 0.12 g, 36% | NC1=C(C(=O)NCC=2OC(=CC2)OC2=CC=C(C=C2)F)C=CC(=N1)N | C17H15FN4O3
